US04125729
Ethyl[ p-(p-aminophenoxy)phenyl]acetate
A mixture of 7.5 g of ethyl[ p-(p-nitrophenoxy)phenyl]acetate and 200 mg of platinum oxide in 200 ml of ethanol is shaken under 45 lbs of hydrogen for one hour and then filtered through diatomaceous earth which is washed with 20 ml of ethanol. The combined filtrate and washings are concentrated to a yellow oil. Bulb-to-bulb distillation affords a pale yellow opaque oil, b.p. 176° at 0.1 mm.

reactant | ethyl[ p-(p-nitrophenoxy)phenyl]acetate | 7.5 g | C(C)OC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C16H15NO5
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | platinum oxide | 200 mg | [Pt]=O
product | Ethyl[ p-(p-aminophenoxy)phenyl]acetate | C(C)OC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)N)=O | C16H17NO3
